US07718693B2
Dimethyl L-glutamate hydrochloride (0.500 g, 2.37 mmol) was dissolved in methanol (4 ml) and tetrahydrofuran (8 ml) and the mixture was then treated with crushed sodium hydroxide (0.099 g, 2.49 mmol) for 10 minutes. At this stage acetic acid (0.136 ml, 2.37 mmol) and acetaldehyde (0.199 ml, 3.55 mmol) were added together to the mixture as a solution in tetrahydrofuran (1 ml). After stirring for 10 minutes the mixture was cooled to 0° C. and treated with sodium borohydride pellets (0.088 g, 2.37 mmol). The mixture was then left to warm to room temperature. Once the mixture had reached room temperature it was diluted with ethyl acetate (30 ml) and washed with saturated aqueous sodium hydrogen carbonate, filtered through a phase separator (with stirring) and evaporated to give an oily residue. The oil was dissolved in toluene and heated at reflux for 4 hrs. To ensure complete reaction the mixture was then heated overnight at reflux. The solvent was then evaporated and the resulting residue was purified by flash-silica column chromatography, eluting with a gradient of 30-50% ethyl acetate in hexane, to give crude methyl 1-ethyl-5-oxo-prolinate (0.135 g) as a clear oil which was used without further purification.

reactant | Dimethyl L-glutamate hydrochloride | 2.37 mmol, 0.500 g | Cl.N[C@@H](CCC(=O)OC)C(=O)OC
reactant | sodium hydroxide | 2.49 mmol, 0.099 g | [OH-].[Na+]
reactant | acetic acid | 2.37 mmol, 0.136 ml | C(C)(=O)O | C2H4O2
reactant | acetaldehyde | 3.55 mmol, 0.199 ml | C(C)=O | C2H4O
reactant | sodium borohydride | [BH4-].[Na+]
solvent | methanol | 4 ml | CO | CH4O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | methyl 1-ethyl-5-oxo-prolinate | 0.135 g | C(C)N1[C@H](C(=O)OC)CCC1=O | C8H13NO3
